US08106070B2
Lithium hydroxide (444 mg, 10.8 mmol) was added to an ambient temperature solution of methyl 2-(acetylamino)-3-(4-{3-[(tert-butoxycarbonyl)amino]-1-methyl-1H-pyrazo 1-4-yl}phenyl)propanoate (450 mg, 1.08 mmol) in tetrahydrofuran/water (10:1) (11 mL). After stirring at ambient temperature for 1 h, the reaction mixture was diluted with water and extracted with ethyl acetate. The aqueous phase was acidified with 1.5 N hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Sodium bicarbonate (727 mg, 8.66 mmol) was added to an ambient temperature solution of the crude residue, 1-amino-4,4-dimethylhexan-2-ol (314 mg, 2.16 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (415 mg, 2.16 mmol) and 1-hydroxybenzotriazole (292 mg, 2.16 mmol) in methylene chloride (20 mL). After stirring at ambient temperature overnight, the reaction was quenched with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded tert-butyl[4-(4-{2-(acetylamino)-3-[(2-hydroxy-4,4-dimethylhexyl)amino]-3-oxopropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate.

reactant | Lithium hydroxide | 10.8 mmol, 444 mg | [OH-].[Li+]
reactant | methyl 2-(acetylamino)-3-(4-{3-[(tert-butoxycarbonyl)amino]-1-methyl-1H-pyrazo 1-4-yl}phenyl)propanoate | 1.08 mmol, 450 mg | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)C=1C(=NN(C1)C)NC(=O)OC(C)(C)C | C21H28N4O5
reactant | Sodium bicarbonate | 8.66 mmol, 727 mg | C([O-])(O)=O.[Na+]
reactant | 1-amino-4,4-dimethylhexan-2-ol | 2.16 mmol, 314 mg | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 2.16 mmol, 415 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.16 mmol, 292 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran water | 11 mL | O1CCCC1.O
solvent | water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl[4-(4-{2-(acetylamino)-3-[(2-hydroxy-4,4-dimethylhexyl)amino]-3-oxopropyl}phenyl)-1-methyl-1H-pyrazol-3-yl]carbamate | C(C)(C)(C)OC(NC1=NN(C=C1C1=CC=C(C=C1)CC(C(=O)NCC(CC(CC)(C)C)O)NC(C)=O)C)=O | C28H43N5O5
